US07034039B2
To a solution of methyl 6-benzyloxy-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (5.05 g, 11 mmol) in methanol (30 mL) was added an aqueous solution (10 mL) of lithium hydroxide monohydrate (1.38 g, 33 mmol). The obtained mixture was refluxed under heating for 12 h. The reaction mixture was poured into water, and, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from ethyl acetate-diisopropyl ether to give 6-benzyloxy-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylic acid (3.94 g, 80.5%) as crystals.

reactant | methyl 6-benzyloxy-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 11 mmol, 5.05 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)OC)C1=CC=C(C=C1)F | C28H26FNO4
reactant | lithium hydroxide monohydrate | 33 mmol, 10 mL, 1.38 g | O.[OH-].[Li+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 6-benzyloxy-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylic acid | 3.94 g, 80.5% | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)O)C1=CC=C(C=C1)F | C27H24FNO4
